Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
R M2 and L P1-P2 junction stenosis
 
Major Surgical or Invasive Procedure:
___: Diagnostic Cerebral Angiogram

 
History of Present Illness:
___ who presented to an OSH ___ with speech difficulties
and right arm clumsiness. He was found to have a left basal
ganglia infarct, but was out of the tpa window. CTA was done and
showed stenosis of the right M2 and left P1-P2 junction, so he
was transferred to ___ as a direct admit for further workup.
 
Past Medical History:
-CVA
-HTN
-OSA, uses CPAP
-GERD
 
Social History:
___
Family History:
-father had stroke at ___
-mother had stroke at ___
 
Physical Exam:
ON ADMISSION:
-------------
T: 99.1  BP: 148/85   HR: 82    R 18       O2Sats 96% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 3-2mm        EOMs full
Neck: Supple.
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No paraphasic errors. Dysarthric. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to 3-2
mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Right facial droop
VIII: Hearing intact to voice.
IX, X: Not tested
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Coordination: normal on finger-nose-finger

-------------
ON DISCHARGE:
-------------
Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils:  PERRL 2mm bilaterally reactive 
EOM: [x]Full [ ]Restricted
Face Symmetric: [ ]Yes [x]No - very mild R facial droop, mostly
activates with smiling
Tongue Midline: [x]Yes [ ]No
Pronator Drift [ ]Yes [x]No     
Speech Fluent: [ ]Yes [x]No - slightly dysarthric, slowed speech
- states "sounds drunk" - but improving since yesterday 
Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
___

IPQuadHamATEHLGast
Right___
Left5       5       5       5       5       5

[x]Sensation intact to light touch

Angio Groin Site: 
R groin [x]Soft, no hematoma  [x]Palpable pulses

 
Pertinent Results:
Please see OMR for pertinent results.
 
Brief Hospital Course:
___ found to have left basal ganglia stroke with R M2 and L 
P1-P2 junction stenosis at an OSH. He was transferred as a 
direct admit on ___ and admitted to the ___.

#Neuro
He remained neurologically stable, with his mild dysarthria 
improving upon neuro checks daily. On ___, he had a diagnostic 
cerebral angiogram, please see separately dictated note for 
details. He remained neurologically stable overnight. He was 
assessed by the Neurology team and was deemed stable for 
discharge home with outpatient follow up and initiation of 
Plavix 75mg daily for three months, and Aspirin 81mg daily in 
conjunction with his home statin medication. The patient and his 
wife verbalized understanding. 
 
Medications on Admission:
-Xanax 0.25mg ___ tab at bedtime PRN insomnia
-Aspirin 81mg QHS
-Aspirin/Dipyridamole (25mg-200mg capsule) BID
-Atorvastatin 40mg daily
-Esomeprazole magnesium 40mg daily
-Claritin 10mg daily
-Losartan 75mg daily
-Ranitidine 150mg QHS
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
4.  Docusate Sodium 100 mg PO BID  
5.  Senna 17.2 mg PO DAILY:PRN Constipation - First Line  
6.  ALPRAZolam 0.25 mg PO QHS:PRN Insomnia   
7.  Atorvastatin 40 mg PO QPM  
8.  GuaiFENesin ER 600 mg PO Q12H:PRN cough, congestion  
9.  Loratadine 10 mg PO DAILY  
10.  Losartan Potassium 75 mg PO DAILY  
11.  Omeprazole 40 mg PO DAILY  
12.  Ranitidine 150 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Basal Ganglia Infarct 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
* You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
* Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
* You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
* Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
* You make take a shower.

Medications
* Resume your normal medications and begin new medications as 
directed.
* You may be instructed by your doctor to take one ___ a day 
and/or Plavix. If so, do not take any other products that have 
aspirin in them. If you are unsure of what products contain 
Aspirin, as your pharmacist or call our office.
* You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

Care of the Puncture Site
* You will have a small bandage over the site.
* Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
* Keep the site clean with soap and water and dry it carefully.
* You may use a band-aid if you wish.

What You ___ Experience:
* Mild tenderness and bruising at the puncture site (groin).
* Soreness in your arms from the intravenous lines.
* Mild to moderate headaches that last several days to a few 
weeks.
* Fatigue is very normal
* Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
* Severe pain, swelling, redness or drainage from the puncture 
site. 
* Fever greater than 101.5 degrees Fahrenheit
* Constipation
* Blood in your stool or urine
* Nausea and/or vomiting
* Extreme sleepiness and not being able to stay awake
* Severe headaches not relieved by pain relievers
* Seizures
* Any new problems with your vision or ability to speak
* Weakness or changes in sensation in your face, arms, or leg
 
Followup Instructions:
___